US09375006B2
3-(difluoromethyl)-1-methyl-N-(1,1,3-triethyl-1,3-dihydro-2-benzofuran-4-yl)-1H-pyrazole-4-carbothioamide (example 26)
In a microwave sealable tube, P2S5 (13 mg, 0.061 mmol, 0.5 eq) is added to a solution of 3-(difluoromethyl)-1-methyl-N-(1,1,3-triethyl-1,3-dihydro-2-benzofuran-4-yl)-1H-pyrazole-4-carboxamide (45 mg, 0.121 mmol, 1 eq) in 2 ml of dioxane. The tube is sealed and the reaction is microwaved 20 min at 130° C. The resulting solution is filtered through alumina and washed with dioxane. The solvent is evaporated and the residue purified by chromatography on silica gel to give pure material (61%)

reactant | P2S5 | 0.061 mmol, 13 mg, 0.5 eq | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 3-(difluoromethyl)-1-methyl-N-(1,1,3-triethyl-1,3-dihydro-2-benzofuran-4-yl)-1H-pyrazole-4-carboxamide | 0.121 mmol, 45 mg, 1 eq | FC(C1=NN(C=C1C(=O)NC1=CC=CC=2C(OC(C21)CC)(CC)CC)C)F | C20H25F2N3O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 3-(difluoromethyl)-1-methyl-N-(1,1,3-triethyl-1,3-dihydro-2-benzofuran-4-yl)-1H-pyrazole-4-carbothioamide | 61% | FC(C1=NN(C=C1C(NC1=CC=CC=2C(OC(C21)CC)(CC)CC)=S)C)F | C20H25F2N3OS
